US05688808
A solution of 2-bromo-N-(2-methyl-2-propenyl)-5-nitroaniline (100 mg, 0.369 mmol), Pd(OAc)2 (2 mg, 0.0073 mol), Bu4NBr (119 mg, 0.369 mmol) and triethylamine (129 mL, 0.922 mmol) in 1 mL of dry DMF under argon atmosphere was heated at 80° C. for 1 h. Then sodium formate (25 mg, 0.369 mmol) was added to the reaction mixture with continued heating at 80° C. for 20 h. Water (2 mL) was added and the mixture was extracted with ethyl acetate (2×5 mL), dried (Na2SO4) and concentrated in vacuo to an oil that was subjected to flash column chromatography (silica gel, hexanes/ethyl acetate, 8:2) to give 60 mg (80%) of 3, 3-dimethyl-6-nitroindoline. Data for 3, 3-dimethyl-6-nitroindoline: 1H NMR (400 MHz, CDCl3) 7.60 (dd, J=8.2, 2.0, 1H), 7.35 (d, J=2.0, 1H), 7.08 (d, J=8.2, 1H), 3.98 (bs, 1H), 3.41 (s, 2H), 1.33 (s, 6H).

reactant | 2-bromo-N-(2-methyl-2-propenyl)-5-nitroaniline | 0.369 mmol, 100 mg | BrC1=C(NCC(=C)C)C=C(C=C1)[N+](=O)[O-] | C10H11BrN2O2
reactant | triethylamine | 0.922 mmol, 129 mL | C(C)N(CC)CC | C6H15N
reactant | sodium formate | 0.369 mmol, 25 mg | C(=O)[O-].[Na+]
reactant | Water | 2 mL | O | H2O
catalyst | Bu4NBr | 0.369 mmol, 119 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.0073 mol, 2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3, 3-dimethyl-6-nitroindoline | 60 mg, 80% | CC1(CNC2=CC(=CC=C12)[N+](=O)[O-])C | C10H12N2O2
